US08420052B2
A mixture of 6-bromo-2-chlorobenzo[d]thiazole (250 mg, 1 mmol) and thiourea (228 mg, 3 mmol) in 2 mL of MeOH in a microwave tube was heated in a microwave reactor for 10 min at 120° C. The mixture was concentrated and the solid was collected through filtration and washed with water and dried under high vacuum to afford 6-bromobenzo[d]thiazole-2-thiol as a yellow solid (200 mg, 81%). MS (ESI) m/z 247.9 (M+H+).

reactant | 6-bromo-2-chlorobenzo[d]thiazole | 1 mmol, 250 mg | BrC1=CC2=C(N=C(S2)Cl)C=C1 | C7H3BrClNS
reactant | thiourea | 3 mmol, 228 mg | NC(=S)N | CH4N2S
solvent | MeOH | 2 mL | CO | CH4O
product | 6-bromobenzo[d]thiazole-2-thiol | 200 mg, 81% | BrC1=CC2=C(N=C(S2)S)C=C1 | C7H4BrNS2
